US07345072B2
124 g (0.228 moles) of 2-butyl-3-{2′-[2-(1-methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-biphenyl-4-ylmethyl}-1,3-diaza-spiro[4.4]non-1-en-4-one are dissolved in 500 ml of toluene and 900 ml of 37% aqueous hydrochloric acid are added thereto under stirring at a temperature of 15-20° C. The mixture is stirred for a further 4 h, then the aqueous phase is separated and washed twice with 250 ml of toluene. The aqueous phase is poured into a solution of 125 g of sodium acetate in water, the formed precipitate is filtered, thoroughly washed with water and dried under vacuum at 70° C., thereby obtaining 77 g of irbesartan.

reactant | 2-butyl-3-{2′-[2-(1-methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-biphenyl-4-ylmethyl}-1,3-diaza-spiro[4.4]non-1-en-4-one | 0.228 moles, 124 g | C(CCC)C1=NC2(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C)(C1=CC=CC=C1)C)=O)CCCC2 | C34H38N6O
reactant | hydrochloric acid | 900 ml | Cl | ClH
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | irbesartan | 77 g | CCCCC1=NC2(CCCC2)C(=O)N1CC=3C=CC(=CC3)C=4C=CC=CC4C5=NNN=N5 | C25H28N6O
